US07850946B2
Synthesis of Cyclic Cypate-Lys Conjugate (9)
Fmoc-Lys was attached to Rink amide resin (60 mg, 0.0366 mmol) and the Fmoc was deprotected by piperidine in DMF (20%). A solution of Cypate(129 mg, 5 equiv), HOBT(24.7 mg), and DIC (11.5 mg, 2.5 equiv) in DMF (3 mL) was added into the resin and swirled overnight. After filtered, the resin was washed with DMF and DCM, cleaved with TFA/H2O (95:5) for 3 h, filtered, concentrated, and dried. The crude product was dissolved in 20 mL DCM and added dropwise into a stirred solution of PyBOP (38 mg), HOBT (9.9 mg), and DIEA (18.9 mg) in DCM/DMF(195:5, 200 mL) and the resulting mixture was stirred overnight, concentrated, and purified by HPLC to afforded 1.5 mg of the desired product.

reactant | Fmoc-Lys | N([C@@H](CCCCN)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H24N2O4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | Cypate | 129 mg, 5 equiv | CC1(C=2C=3C=CC=CC3C=CC2[N+](=C1/C=C/C=C/C=C/C=C/4\C(C=5C=6C=CC=CC6C=CC5N4CCC(=O)O)(C)C)CCC(=O)O)C.[Br-]
reactant | HOBT | 24.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIC | 11.5 mg, 2.5 equiv | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Cypate Lys | 1.5 mg | CC1(C=2C=3C=CC=CC3C=CC2[N+](=C1/C=C/C=C/C=C/C=C/4\C(C=5C=6C=CC=CC6C=CC5N4CCC(=O)O)(C)C)CCC(=O)O)C.[Br-].N[C@@H](CCCCN)C(=O)O | InChI=1S/C41H40N2O4.C6H14N2O2.BrH/c1-40(2)34(42(26-24-36(44)45)32-22-20-28-14-10-12-16-30(28)38(32)40)18-8-6-5-7-9-19-35-41(3,4)39-31-17-13-11-15-29(31)21-23-33(39)43(35)27-25-37(46)47;7-4-2-1-3-5(8)6(9)10;/h5-23H,24-27H2,1-4H3,(H-,44,45,46,47);5H,1-4,7-8H2,(H,9,10);1H/t;5-;/m.0./s1
